US08217064B2
2-(2,5-difluoro-4-nitro-phenyl)-4-methyl-pentanoic acid (29.0 g, 0.11 mol) was dissolved in EtOH (200 mL) and H2SO4 (96%) 10 mL added. The reaction mixture was refluxed for 3 h and the solvent evaporated to an oil which was dissolved in EtOAc. Water (150 mL) added and the reaction mixture was extracted with EtOAc (3×100 mL). Organic phases washed with saturated NaHCO3 (50 mL), water (100 mL) and brine (100 mL) then dried under MgSO4. The evaporation of solvent under reduced pressure gave 2-(2,5-difluoro-4-nitro-phenyl)-4-methyl-pentanoic acid ethyl ester as yellow oil 32.0 g, (97%), which was used for the next step without purification. 1H NMR (300 MHz, CDCl3/TMS): δ 7.81 (dd, J=8.8, 6.2 Hz, 1H), 7.41 (dd, J=11.1, 5.6 Hz, 1H), 4.23-4.05 (m, 3H), 2.04-1.94 (m, 1H), 1.71-1.62 (m, 1H), 1.51-1.42 (m, 1H), 1.25 (t, J=7.1 Hz, 3H), 0.95-0.92 (m, 6H); 13C NMR (75 MHz, CDCl3/TMS): δ 171.6, 155.0 (d, 1JCF=246.0 Hz), 151.5 (d, 1JCF=261.3 Hz), 145.5, 135.7, 118.8 (dd, 2JCF=24.0, 3JCF=4.0 Hz), 113.0 (d, 2JCF=20.0 Hz), 61.6, 41.8, 26.1, 22.5, 22.0, 14.1.

reactant | 2-(2,5-difluoro-4-nitro-phenyl)-4-methyl-pentanoic acid | 0.11 mol, 29.0 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)C(C(=O)O)CC(C)C | C12H13F2NO4
reactant | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
reactant | EtOH | 200 mL | CCO | C2H6O
product | 2-(2,5-difluoro-4-nitro-phenyl)-4-methyl-pentanoic acid ethyl ester | 32.0 g | C(C)OC(C(CC(C)C)C1=C(C=C(C(=C1)F)[N+](=O)[O-])F)=O | C14H17F2NO4
